US04425153
a. 2-(Benzyloxy)benzenesulfonamide
To 148 ml of concentrated hydrochloric acid and 45 ml of acetic acid, maintained at <10°, was added 39.2 g of 2-(benzyloxy)aniline [See Berichte, 58, 79 (1925)]. White solid formed. Sufficient additional acetic acid was added to render the mixture stirrable. While temperature was 0° to 3°, a solution of 28 g of sodium nitrite in 75 ml of water was dripped into it. The mixture was kept at 5° to 10° for 15 minutes, then added to a mixture of 5.2 g of cuprous chloride, 37 ml of sulfur dioxide and 211 ml of acetic acid at 3°. Next, 290 ml of butyl chloride was added and the mixture allowed to warm to ambient temperature. After 16 hours, the mixture was diluted with water and the organic layer washed with water and dilute sodium bicarbonate solution until the washings were basic. The mixture was then dried (MgSO4) and evaporated to an oil (A). The effervescing aqueous portion (from which the butyl chloride solution had been removed) was depositing an oil; it was then treated portionwise with sodium bisulfite over several hours. After about 16 hours the oil was extracted into butyl chloride and the butyl chloride solution washed, dried and evaporated, providing an oil (B). Oils A and B are 2-(benzyloxy)benzenesulfonyl chloride. To oils A and B was added an excess of concentrated aqueous ammonia, the mixture was swirled and a white solid was observed. The solid was filtered off and extracted with hot butyl chloride; upon cooling, the extract precipitated 2-(benzyloxy)benzenesulfonamide as a white solid, m.p. 127°-129°.

reactant | 2-(benzyloxy)benzenesulfonyl chloride | C(C1=CC=CC=C1)OC1=C(C=CC=C1)S(=O)(=O)Cl | C13H11ClO3S
reactant | ammonia | N | H3N
product | 2-(Benzyloxy)benzenesulfonamide | C(C1=CC=CC=C1)OC1=C(C=CC=C1)S(=O)(=O)N | C13H13NO3S
